US04255436
2-oxo-4-propyl-5-ethyl-5-methyl-3-thiazoline-oxime was reacted with methyl isocyanate as described in Example 4 to yield 2-oxo-4-propyl-5-ethyl-5-methyl-3-thiazoline-O-(methylcarbamoyl)-oxime, m.p. 124°-126° C. The 2-oxo-4-propyl-5-ethyl-5-methyl-3-thiazoline-oxime starting material melts at 132°-135° C.

reactant | 2-oxo-4-propyl-5-ethyl-5-methyl-3-thiazoline-oxime | N(O)=C1SC(C(=N1)CCC)(C)CC | C9H16N2OS
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | 2-oxo-4-propyl-5-ethyl-5-methyl-3-thiazoline-O-(methylcarbamoyl)-oxime | CNC(=O)ON=C1SC(C(=N1)CCC)(C)CC | C11H19N3O2S
